US04838924
A mixture of 1.9 g of resorcinol, 1.8 g of 3-methoxy-2-butanone, 0.2 g of Amberlyst-15 and 2 ml of toluene was stirred at 90° C. for 10 hours. After cooling, the catalyst was separated, and the filtrate was concentrated. The residue was purified by column chromatography to give 1.7 g of 2,3-dimethyl-6-hydroxybenzofuran as pale yellow crystals. The crystals were dissolved in 20 ml of acetic acid, and 0.2 g of 5% palladium-carbon was added. The mixture was stirred at room temperature for 12 hours in an atmosphere of hydrogen. The crude product was purified by column chromatography to give 1.5 g (yield 54%) of the desired product as a brown liquid.

reactant | resorcinol | 1.9 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 3-methoxy-2-butanone | 1.8 g | COC(C(C)=O)C | C5H10O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dimethyl-6-hydroxybenzofuran | 1.7 g | CC=1OC2=C(C1C)C=CC(=C2)O | C10H10O2
